US07385066B2
4′-tert-Butoxycarbonylamino-2′-methyl-biphenyl-3-sulfinic acid methyl ester
A mixture of 2′-methyl-4′-nitro-biphenyl-3-sulfinic acid methyl ester (Example 46, step a 200 mg, 0.69 mmol)) and palladium (10% on carbon, 100 mg) in MeOH (10 mL) was stirred under a hydrogen atmosphere (1 atm via balloon) for 2 h. Di-tert-butyl dicarbonate (358 mg, 1.24 mmol) was added and the reaction was stirred for 3 h at RT. The mixture was filtered through celite and then was partitioned between EtOAc (100 mL) and water (30 mL). The layers were separated and the organic layer was further washed with water (4×30 μL), brine (30 mL), and was dried over Na2SO4. Concentration of the solution followed by purification of the residue via silica gel chromatography (5-10% EtOAc in hexanes) yielded the product as a colorless oil (191 mg, 77%). 1H NMR(CDCl3): δ7.68 (ddd, 1H, J=1.2, 1.6, 7.6 Hz), 7.66 (m, 1H), 7.60 (dt, 1H, J=0.6, 7.6 Hz), 7.51 (ddd, 1H, J=1.2, 1.6, 7.6 Hz), 7.37 (br s, 1H), 7.24 (dd, 1H, J=2.2, 8.4 Hz), 7.17 (d, 1H, J=8.2 Hz), 6.57 (br s, 1H), 3.56 (s, 3H), 2.26 (s, 3H), 1.51 (s, 9H). C19H23NO4S: 362.1 (M+1) found: 262.0 ((M+1)-Boc).

reactant | 2′-methyl-4′-nitro-biphenyl-3-sulfinic acid methyl ester | COS(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C14H13NO4S
reactant | Di-tert-butyl dicarbonate | 1.24 mmol, 358 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium | 100 mg | [Pd] | Pd
product | 4′-tert-Butoxycarbonylamino-2′-methyl-biphenyl-3-sulfinic acid methyl ester | 191 mg, 77% | COS(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)NC(=O)OC(C)(C)C)C | C19H23NO4S
